US07893093B2
Synthesis of N-(1-cyanocyclopropyl)-3-(5-methylisoxazol-3-ylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenyl-ethylamino)propionamide (compound 28)
3-(Bromomethyl)-5-methylisoxazole (0.5 mmol) was dissolved in acetonitrile (1.5 mL) and a 0.50 M stock solution of 3-mercapto-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethyl-amino]propionic acid (1.5 mL, 0.75 mmol) in 2.0 M aqueous sodium hydroxide was added. After 2 h, water (2 mL) and acetonitrile (2 mL) were added and the two phase mixture was washed with heptane. The heptane extract was discarded and the aqueous phase was placed in an ice/water bath and the pH was adjusted to 3 with 1.0 M aqueous KHSO4. The organic phase was separated and the aqueous phase was extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous MgSO4, and concentrated. The residue was dissolved in acetonitrile (3 mL) and 1-aminocyclopropanecarbonitrile hydrochloride (88 mg, 0.74 mmol), DIPEA (390 μL, 2.2 mmol) and HATU (287 mg, 0.75 mmol) were added. After 2 h, the reaction mixture was diluted with and a 0.50 M aqueous solution of Oxone™ (3.0 mL, 1.5 mmol) was added. After stirring the reaction mixture at 50° for 2 h, water (5 mL) was added and the reaction mixture was concentrated to remove acetonitrile. The aqueous layer was extracted with EtOAc, and the combined organic extracts were washed with 1.0 M aqueous KHSO4, 1:1 water:saturated NaHCO3, and brine, and dried over anhydrous MgSO4. After concentration, the residue through a plug of silica gel using EtOAc eluent and collected all material with Rf>0.5. After concentration the residue was purified by flash chromatography to give title compound (63 mg) as a white solid mixture of diastereomers, 85% de, (1′S,2R)>(1′R,2R). LC-MS: 489 (M+1), 487 (M−1), 511 (M+23). 1H-NMR (DMSO): 0.74 (m, 1H), 1.01 (m, 1H), 1.36 (m, 2H), 2.44 (s, 3H), 3.36 (m, 1H), 3.68 (m, 2H), 3.75 (m, 1H), 4.41 (m, 1H), 4.77 (q, 2H), 6.33 (s, 1H), 7.25 (t, 2H), 7.47 (dd, 2H), 9.04 (s, 1H).

reactant | 3-(Bromomethyl)-5-methylisoxazole | 0.5 mmol | BrCC1=NOC(=C1)C | C5H6BrNO
reactant | 3-mercapto-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethyl-amino]propionic acid | 0.75 mmol, 1.5 mL | SC[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F | C11H11F4NO2S
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.74 mmol, 88 mg | Cl.NC1(CC1)C#N
reactant | DIPEA | 2.2 mmol, 390 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.75 mmol, 287 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | sodium hydroxide | 2.0 M | [OH-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | N-(1-cyanocyclopropyl)-3-(5-methylisoxazol-3-ylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenyl-ethylamino)propionamide | 63 mg | C(#N)C1(CC1)NC([C@H](CS(=O)(=O)CC1=NOC(=C1)C)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C20H20F4N4O4S
